US07163937B2
Preparation A3, Step 1: (1R,2S,5R)-Tert-butyl 2-benzyloxycarbonylamino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate (4.0 g) in MeOH (30 mL) was charged with 10% Pd/C, Degussa (600 mg). The reaction flask was evacuated and then back-filled with hydrogen; this was repeated three more times. The reaction was stirred under 1 atm of H2 for 3 h and then filtered and concentrated to provide (1R,2S,5R)-tert-butyl 2-amino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate (2.5 g). MS (ES+)=241.1 (M+H)+.

reactant | (1R,2S,5R)-Tert-butyl 2-benzyloxycarbonylamino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 4.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)=O | C20H26N2O5
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (1R,2S,5R)-tert-butyl 2-amino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 2.5 g | N[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)=O | C12H20N2O3
